US03960858
A: 1,3,4,5-Tetrahydro-2,3-benzoxazepine-3-carbonyl chloride
To a solution of 15.9 g. of phosgene in anhydrous toluene a solution of 19.8 g. (0.135 mole) of 1,3,4,5-tetrahydro-2,3-benzoxazepine in the same solvent was added at 0° - 15°C with stirring. After 6 hours it was washed with H2O, dried over Na2SO4 and the solvent evaporated. Recrystallization from EtOH yielded 22.85 g. (81.5%) of the title compound.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1,3,4,5-tetrahydro-2,3-benzoxazepine | 0.135 mole | C1ONCCC2=C1C=CC=C2 | C9H11NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,3,4,5-Tetrahydro-2,3-benzoxazepine-3-carbonyl chloride | 81.5% | C1ON(CCC2=C1C=CC=C2)C(=O)Cl | C10H10ClNO2
